US06184225B2
A mixture of 4-(5-benzyloxy-2-fluoro-4-methylanilino)-7-(2-hydroxyethoxy)-6-methoxyquinazoline (150 mg, 0.33 mmol), (prepared as described for the starting material in Example 13), and 10% palladium-on-charcoal catalyst (20 mg) in ethyl acetate (8 ml) was stirred under 1 atmosphere of hydrogen at ambient temperature for 18 hours. The catalyst was removed by filtration through diatomaceous earth and most of the solvent removed by evaporation and hexane added to the residue. The resulting precipitate was collected by filtration and dried to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-hydroxyethoxy)-6-methoxyquinazoline (50 mg, 41%).

reactant | 4-(5-benzyloxy-2-fluoro-4-methylanilino)-7-(2-hydroxyethoxy)-6-methoxyquinazoline | 0.33 mmol, 150 mg | C(C1=CC=CC=C1)OC=1C(=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCO)C1)F)C | C25H24FN3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 20 mg | [Pd] | Pd
solvent | ethyl acetate | 8 ml | C(C)(=O)OCC | C4H8O2
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-hydroxyethoxy)-6-methoxyquinazoline | 50 mg, 41% | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCO)C=C(C(=C1)C)O | C18H18FN3O4
